US06534447B1
A mixture of 2.32 g 2,2,2-trifluoroethanethiol, 1.12 prop-2-yne-1-ol, 300 mg potassium hydroxide and 40 ml dimethylformamide is stirred at ambient temperature for 20 hours. The mixture is poured into 150 ml of water and extracted with 100 ml ethyl acetate (3 times). The organic phase is washed with water, dried and concentrated. The crude product is purified by column chromatography to obtain 75 mg of pure 1-hydroxy-3-(2,2,2-trifluoroethylthio)-prop-2-ene.

reactant | 2,2,2-trifluoroethanethiol | 2.32 g | FC(CS)(F)F | C2H3F3S
reactant | prop-2-yne-1-ol | C(C#C)O | C3H4O
reactant | potassium hydroxide | 300 mg | [OH-].[K+]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 1-hydroxy-3-(2,2,2-trifluoroethylthio)-prop-2-ene | 75 mg | OCC=CSCC(F)(F)F | C5H7F3OS
